US04539037
Preparation of N-Methyl-N-phenyl Phosphoramidic Dichloride
A 500 mL three-necked flask was fitted with an N2 inlet, thermometer and dropping funnel. The flask was flushed with nitrogen and charged with 150 mL dry ether and 31.1 g (0.203 mol) POCl3. In the dropping funnel was placed a solution of 21.4 g (0.20 mol) N-methylaniline in 5 mL ether. The amine solution was added to the solution of POCL3 (at -12° to -17° C.) over 40 minutes. The temperature was allowed to rise slowly to room temperature and stirring continued for 2 h thereafter. After filtering, volatiles were removed from the filtrate at reduced pressure. The 15.4 g (69% yield) of crude product was distilled (bp 96°-98° C. at 0.05 mm).

reactant | POCl3 | 0.203 mol, 31.1 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N-methylaniline | 0.20 mol, 21.4 g | CNC1=CC=CC=C1 | C7H9N
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | ether | 150 mL | CCOCC | C4H10O
product | N-Methyl-N-phenyl Phosphoramidic Dichloride | 15.4 g, 69% yield | CN(P(=O)(Cl)Cl)C1=CC=CC=C1 | C7H8Cl2NOP
